US07288541B2
To a biphasic mixture of 4.93 g (20 mmol) of tert-butyl (1S)-1-[(1S)-2-amino-1-hydroxyethyl]pentylcarbamate & tert-butyl (1S)-1-[(1R)-2-amino-1-hydroxyethyl]pentylcarbamate in 32 mL dichloromethane and 15 mL saturated sodium bicarbonate was added 24 mL (24 mmol) of 1 M 2-pyridinesulfonyl chloride in dichloromethane. The reaction mixture was stirred overnight and then extracted with dichloromethane. The extract was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with ethyl acetate:hexanes (6:4) to afford 5.00 g (65%) of tert-butyl (1S)-1-{(1SR)-1-hydroxy-2-[(2-pyridinylsulfonyl)amino]ethyl}pentylcarbamate & tert-butyl (1S)-1-{(1R)-1-hydroxy-2-[(2-pyridinylsulfonyl)amino]ethyl}pentylcarbamate. 1H-NMR (300 MHz, DMSO-d6): δ 8.73 (d, J=4 Hz, 1H), 8.09 (t, J=8 Hz, 1H), 7.93 (dd, J=8 Hz, J=4 Hz, 1H), 7.68 (m, 1H), 7.60 and 7.54 ((t, J=6 Hz), (t, J=6 Hz), 1H), 6.55 and 6.36 ((d, J=9 Hz), (d, J=9 Hz), 1H), 4.78 (m, 1H), 3.50–2.70 (m, 4H), 1.61 (m, 1H), 1.37-1.05 (m, 14H), 0.86 (t, J=7 Hz, 3H); ES-LCMS m/z 410 (M+Na).

reactant | tert-butyl (1S)-1-[(1S)-2-amino-1-hydroxyethyl]pentylcarbamate | 20 mmol, 4.93 g | NC[C@H](O)[C@H](CCCC)NC(OC(C)(C)C)=O | C12H26N2O3
reactant | tert-butyl (1S)-1-[(1R)-2-amino-1-hydroxyethyl]pentylcarbamate | NC[C@@H](O)[C@H](CCCC)NC(OC(C)(C)C)=O | C12H26N2O3
reactant | 2-pyridinesulfonyl chloride | 24 mmol, 1 M, 24 mL | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
solvent | dichloromethane | 32 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | 15 mL | C([O-])(O)=O.[Na+]
product | tert-butyl (1S)-1-{(1SR)-1-hydroxy-2-[(2-pyridinylsulfonyl)amino]ethyl}pentylcarbamate | 5.00 g, 65% | OC(CNS(=O)(=O)C1=NC=CC=C1)[C@H](CCCC)NC(OC(C)(C)C)=O | C17H29N3O5S
